US08207177B2
Step a: (1S,2S,4R)-4-(4-Amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2-(hydroxymethyl)cyclopentanol
A solution of N-(2,4-dimethoxybenzyl)-7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine (123 mg, 0.238 mmol, prepared following the procedure described in Example 1a-f using 2,4-dimethoxybenzylamine in step c) and AcOH (1.00 mL, 17.6 mmol) in water (0.500 mL) and THF (0.500 mL) were stirred at rt overnight. The reaction mixture was concentrated in vacuo and purification by silica gel chromatography eluting with a gradient of 0 to 10% MeOH in DCM afforded the title compound (43.0 mg, 73%). LC/MS: Rt=0.15 min, ES+ 249 (FA standard).

reactant | N-(2,4-dimethoxybenzyl)-7-[(4aS,6R,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]2[C@@H](OC(OC2)C2=CC=C(C=C2)OC)C3)C=CC(=C1)OC | C29H32N4O5
reactant | 2,4-dimethoxybenzylamine | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | AcOH | 17.6 mmol, 1.00 mL | CC(=O)O | C2H4O2
solvent | water | 0.500 mL | O | H2O
solvent | THF | 0.500 mL | C1CCOC1 | C4H8O
product | (1S,2S,4R)-4-(4-Amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2-(hydroxymethyl)cyclopentanol | 43.0 mg, 73% | NC=1C2=C(N=CN1)N(C=C2)[C@@H]2C[C@H]([C@H](C2)O)CO | C12H16N4O2
